US06150407
To a 100 mL round-bottomed flask containing potassium hydroxide (4.7 g; 82.0 mmol) dissolved in water (20 mL) was successively added 4-methoxyphenol (10.0 g; 80.6 mmol) and methyl 4-chloro-3,5-dinitrobenzoate (20.2 g; 77.5 mmol). The flask was fitted with a reflux condenser and the reaction heated at 150° C. (oil bath) for 3 hours. After cooling to room temp, the reaction mixture was transferred to a large mortar and triturated with cold 2N NaOH (100 mL) to remove unreacted phenol. The solid was collected by filtration and air-dried to give 21.5 g of crude product. Crystallization from absolute ethanol gave 17.7 g (65.6%) of pure methyl 3,5-dinitro-4-(4-methoxyphenoxy)benzoate as light yellow needles. 300 MHz 1H NMR (CDCl3) d 3.77 (s, 3H, OCH3), 4.02 (s, 3H, OCH3), 6.82 (m, 4H, ArH), 8.70 (s, 2H, ArH).

reactant | potassium hydroxide | 82.0 mmol, 4.7 g | [OH-].[K+]
reactant | 4-methoxyphenol | 80.6 mmol, 10.0 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | methyl 4-chloro-3,5-dinitrobenzoate | 77.5 mmol, 20.2 g | ClC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H5ClN2O6
solvent | water | 20 mL | O | H2O
product | methyl 3,5-dinitro-4-(4-methoxyphenoxy)benzoate | 17.7 g, 65.6% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1OC1=CC=C(C=C1)OC)[N+](=O)[O-] | C15H12N2O8
